US06809097B1
Sodium hydride (2.0 g of an 85% dispersion in mineral oil, 60 mmol) was added to 4-(3-hydroxypropyl)morpholine (4.8 g, 30 mmol), (Tet. Lett. 1994, 35, 1715), in NMP (50 ml) and the mixture was stirred for 15 minutes. 3-Chloro-4-cyanoaniline (4.8 g, 30 mmol) was added and the mixture was heated at 145° C. for 6 hours. The mixture was allowed to cool and was partitioned between ethyl acetate and water. The organic layer was separated, washed with water and then brine and dried (MgSO4). The solvent was removed by evaporation and the residue was purified by column chromatography eluting with ethyl acetate and then methylene chloride/methanol (9/1) to give 4-cyano-3-(3-morpholinopropoxy)aniline (2.0 g, 26%) as a yellow gum.

reactant | Sodium hydride | [H-].[Na+]
reactant | 4-(3-hydroxypropyl)morpholine | 30 mmol, 4.8 g | OCCCN1CCOCC1 | C7H15NO2
reactant | 3-Chloro-4-cyanoaniline | 30 mmol, 4.8 g | ClC=1C=C(N)C=CC1C#N | C7H5ClN2
solvent | NMP | 50 ml | CN1CCCC1=O | C5H9NO
product | 4-cyano-3-(3-morpholinopropoxy)aniline | 2.0 g, 26% | C(#N)C1=C(C=C(N)C=C1)OCCCN1CCOCC1 | C14H19N3O2
